US08383644B2
(S)-3-(4′-Cyano-biphenyl-4-yl)-2-[((S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-{4-methyl-2-[((S)-pyrrolidine-2-carbonyl)-amino]-thiazole-5-sulfonyl}-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl)-amino]-propionic acid
The title compound (18 mg) was prepared from (S)-2-({(S)-7-(2-Amino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester and boc-L-proline according to General Procedures L, C, and B. LCMS (m/z): 1008.

reactant | (S)-2-({(S)-7-(2-Amino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(N=C(S3)N)C)=O | C46H39Cl2N5O8S2
reactant | boc-L-proline | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
product | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-[((S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-{4-methyl-2-[((S)-pyrrolidine-2-carbonyl)-amino]-thiazole-5-sulfonyl}-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl)-amino]-propionic acid | 18 mg | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(N=C(S3)NC(=O)[C@H]3NCCC3)C | C50H44Cl2N6O9S2
